US05576322
2-(2-Methoxyethoxy)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
A mixture comprising 20 ml of ethylene glycol monomethyl ether and 70 mg of 55% sodium hydride was heated to 100° C., followed by the addition of a mixture comprising 500 mg of 2,6-dichloro-4-(3,4-methylenedioxybenzyl)aminoquinazoline and 5 ml of ethylene glycol monomethyl ether. The obtained mixture was heated under reflux for 2 hours and poured into 50 ml of water. The obtained mixture was extracted with 50 ml of ethyl acetate twice. The organic layers were together washed with 70 ml of an aqueous solution of sodium chloride twice, dried over magnesium sulfate and concentrated under a reduced pressure to give a crystalline residue. This residue was reprecipitated from ethyl acetate/n-hexane to give 420 mg of the title compound.

reactant | ethylene glycol monomethyl ether | 20 ml | COCCO | C3H8O2
reactant | sodium hydride | 70 mg | [H-].[Na+]
reactant | 2,6-dichloro-4-(3,4-methylenedioxybenzyl)aminoquinazoline | 500 mg | ClC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C16H11Cl2N3O2
reactant | ethylene glycol monomethyl ether | 5 ml | COCCO | C3H8O2
solvent | water | 50 ml | O | H2O
product | 2-(2-Methoxyethoxy)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 420 mg, yield(%); 75 | COCCOC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C19H18ClN3O4
